US09259470B2
A solution of (R)-tert-butyl 2-((R)-(4-chloro-3-fluorophenyl)(hydroxy)methyl)pyrrolidine-1-carboxylate (0.662 g, 2.01 mmol) and triphenylphosphine (0.658 g, 2.51 mmol) in THF (40 mL) was placed in an ice bath, and diisopropyl azodicarboxylate (0.518 mL, 2.51 mmol) was added. The cold bath was removed after 10 minutes, and the reaction mixture was stirred at room temperature for 10 minutes. 4-(2-(Methylthio)pyrimidin-4-yl)pyridin-2(1H)-one (0.22 g, 1.00 mmol) was added, and the reaction was left at room temperature for 1 hour. The reaction mixture was concentrated, and the crude product was purified via column chromatography, eluting with hexanes/ethyl acetate (1:1) to give (R)-tert-butyl 2-((S)-(4-chloro-3-fluorophenyl)(4-(2-(methylthio)pyrimidin-4-yl)-2-oxopyridin-1(2H)-yl)methyl)pyrrolidine-1-carboxylate (contaminated with large amounts of PPh3O). m/z (APCI-pos) (M+1)-Boc=431.2, 433.2.

reactant | (R)-tert-butyl 2-((R)-(4-chloro-3-fluorophenyl)(hydroxy)methyl)pyrrolidine-1-carboxylate | 2.01 mmol, 0.662 g | ClC1=C(C=C(C=C1)[C@H]([C@@H]1N(CCC1)C(=O)OC(C)(C)C)O)F | C16H21ClFNO3
reactant | triphenylphosphine | 2.51 mmol, 0.658 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 2.51 mmol, 0.518 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 4-(2-(Methylthio)pyrimidin-4-yl)pyridin-2(1H)-one | 1.00 mmol, 0.22 g | CSC1=NC=CC(=N1)C1=CC(NC=C1)=O | C10H9N3OS
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 2-((S)-(4-chloro-3-fluorophenyl)(4-(2-(methylthio)pyrimidin-4-yl)-2-oxopyridin-1(2H)-yl)methyl)pyrrolidine-1-carboxylate | ClC1=C(C=C(C=C1)[C@@H]([C@@H]1N(CCC1)C(=O)OC(C)(C)C)N1C(C=C(C=C1)C1=NC(=NC=C1)SC)=O)F | C26H28ClFN4O3S
